US08372864B2
6.1.3: 5-Bromo-2-pentyl-3,4-dihydroisoquinolin-1(2H)-one
5.44 g of methyl[2-(2-bromophenyl)ethyl]pentylcarbamate are dissolved, under an inert atmosphere, in 200 cm3 of dichloromethane at a temperature close to 20° C. 6.07 g of 4-dimethylaminopyridine are added to the reaction mixture. It is cooled to a temperature in the vicinity of 0° C. 13.94 cm3 of trifluoromethanesulfonic anhydride are poured into the reaction mixture over 15 min. The suspension is kept stirring for 4 h at a temperature close to 20° C. Dichloromethane and also 50 cm3 of a water/ice mixture are added to the reaction medium. The 4-dimethylaminopyridine is filtered. The filtrate is decanted, the aqueous phase is extracted with dichloromethane. The organic phases are combined, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated using a rotary evaporator under reduced pressure (5 kPa). The crude product obtained is purified by flash chromatography over silica (column: 200 g; particle size: 15-40 μm; eluent: 90% dichloromethane/10% ethyl acetate). After concentrating the fractions under reduced pressure, 4.14 g of 5-bromo-2-pentyl-3,4-dihydroisoquinolin-1(2H)-one are obtained in the form of a colorless oil.

reactant | methyl[2-(2-bromophenyl)ethyl]pentylcarbamate | 5.44 g | COC(N(CCCCC)CCC1=C(C=CC=C1)Br)=O | C15H22BrNO2
reactant | trifluoromethanesulfonic anhydride | 13.94 cm3 | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 200 cm3 | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 6.07 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-Bromo-2-pentyl-3,4-dihydroisoquinolin-1(2H)-one | BrC1=C2CCN(C(C2=CC=C1)=O)CCCCC | C14H18BrNO
